US08629270B2
Racemic 7a-(2-Fluorophenyl)-6-(5-fluoropyrimidin-2-yl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-amine
Racemic N-[7a-(2-fluorophenyl)-6-(5-fluoropyrimidin-2-yl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide (560 mg, 1.24 mmol), methanol (12 ml), and lithium hydroxide (208 mg, 4.95 mmol) is heated to 50° C. for 18 hours under an atmosphere of nitrogen. The methanol is removed to near dryness with a stream of nitrogen. To the reaction is added ethyl acetate (7.5 ml), and water (2.5 ml). The mixture is passed through 10 g diatomaceous earth and the solvent removed under reduced pressure. The filtrate is passed through a 8 g XL-C solid phase extraction column (SPE), the basic methanol wash collected, and the solvent removed under reduced pressure to provide the crude title compound (370 mg, 86%). ES/MS (m/e): 348 (M+H).

reactant | Racemic N-[7a-(2-fluorophenyl)-6-(5-fluoropyrimidin-2-yl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide | 1.24 mmol, 560 mg | FC1=C(C=CC=C1)C12N=C(SCC1CN(C2)C2=NC=C(C=N2)F)NC(C2=CC=CC=C2)=O | C23H19F2N5OS
reactant | lithium hydroxide | 4.95 mmol, 208 mg | [OH-].[Li+]
solvent | methanol | 12 ml | CO | CH4O
product | Racemic 7a-(2-Fluorophenyl)-6-(5-fluoropyrimidin-2-yl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-amine | 370 mg, 86% | FC1=C(C=CC=C1)C12N=C(SCC1CN(C2)C2=NC=C(C=N2)F)N | C16H15F2N5S
